US08623859B2
5-({[(4-chloro-2,5-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-methylfuran-3-carboxamide
5-({[(4-chloro-2,5-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (30 mg, 0.08 mmol) was dissolved in DMF (1 mL) and CDI (20 mg, 0.12 mmol) was added. The mixture was stirred until acid activation was complete. 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine.HCl (19 mg, 0.08 mmol) and DIPEA (0.042 mL, 0.24 mmol) were sonicated in DMF (1 mL) for 15 min, 0.5 mL of activated acid solution was added to 0.25 mL of amine solution and the reaction was microwaved (120° C., 200 W) for 20 min, then 2×60 min. A portion of the reaction was concentrated and purified using prep method A.

reactant | 5-({[(4-chloro-2,5-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.08 mmol, 30 mg | ClC1=CC(=C(C=C1C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C15H16ClNO5S
reactant | CDI | 0.12 mmol, 20 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]-N-methylethanamine | N1C(=NCC1)C1=CC=C(C=C1)CCNC | C12H17N3
reactant | HCl | 0.08 mmol, 19 mg | Cl | ClH
reactant | DIPEA | 0.24 mmol, 0.042 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-({[(4-chloro-2,5-dimethylphenyl)sulfonyl](methyl)amino}methyl)-N-{2-[4-(4,5-dihydro-1H-imidazol-2-yl)phenyl]ethyl}-N-methylfuran-3-carboxamide | ClC1=CC(=C(C=C1C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)N(C)CCC1=CC=C(C=C1)C=1NCCN1)C | C27H31ClN4O4S
